US04443449
A mixture of 1-[1-(4-chlorophenyl)cyclobutyl]propan-2-one prepared as described in Example 3 (15 g) and 98% formic acid (4 ml) was added dropwise to formamide (12 ml) at 160° C. The temperature was raised to 180° C. and maintained at this temperature for ten hours. The mixture was cooled, diluted with water and extracted with dichloromethane. The extract was washed, dried and evaporated to yield a yellow oil which was hydrolysed with concentrated hydrochloric acid under reflux. The resulting aqueous solution after dilution with water was washed with ether, aqueous NaOH was added and the aqueous solution extracted with ether. The extracts were washed, dried and evaporated to yield a residue which on distillation gave 2-[1-(4-chlorophenyl)cyclobutyl]-1-methylethylamine (b.p. 105°-107°/0.7 mm Hg).

reactant | 1-[1-(4-chlorophenyl)cyclobutyl]propan-2-one | ClC1=CC=C(C=C1)C1(CCC1)CC(C)=O | C13H15ClO
reactant | formic acid | 4 ml | C(=O)O | CH2O2
reactant | formamide | 12 ml | C(=O)N | CH3NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-[1-(4-chlorophenyl)cyclobutyl]-1-methylethylamine | ClC1=CC=C(C=C1)C1(CCC1)CC(C)N | C13H18ClN
